US06323199B1
5-{3-[1-(5-Fluoro-2-hydroxyphenyl)-cyclopropyl]-2-hydroxy-2-trifluoromethyl-propionylamino}-phthalide
225 mg of 5-{3-[1-(5-fluoro-2-methoxyphenyl)-cyclopropyl]-2-hydroxy-2-trifluoromethyl-propionylamino}-phthalide is mixed in 4.5 ml of dichloromethane at 0° C. with 2.48 ml of a 1 molar solution of boron tribromide in dichloromethane. After 3 hours of stirring at 0° C., the mixture is added to water, extracted with ethyl acetate, the organic phase is dried (Na2SO4) and concentrated by evaporation. After the residue is triturated with hexane, the title compound is obtained in crystalline form, flash point 196-199° C.

reactant | 5-{3-[1-(5-fluoro-2-methoxyphenyl)-cyclopropyl]-2-hydroxy-2-trifluoromethyl-propionylamino}-phthalide | 225 mg | FC=1C=CC(=C(C1)C1(CC1)CC(C(=O)NC=1C=C2COC(=O)C2=CC1)(C(F)(F)F)O)OC | C22H19F4NO5
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | 4.5 ml | ClCCl | CH2Cl2
product | 5-{3-[1-(5-Fluoro-2-hydroxyphenyl)-cyclopropyl]-2-hydroxy-2-trifluoromethyl-propionylamino}-phthalide | FC=1C=CC(=C(C1)C1(CC1)CC(C(=O)NC=1C=C2COC(=O)C2=CC1)(C(F)(F)F)O)O | C21H17F4NO5
